US05861414
(i) 4-{2-[3-(1-tert-Butoxycarbonylmethyl-piperidin-4-yl)-1-(3,4-dichloro-benzyl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester
Sodium hydride (12.2 mg; 0.304 mmol) was added to a stirred solution of 4-{2-[3-(1-tert-butoxycarbonylmethyl-piperidin-4-yl)-1H-indazol-6-yl]-(E)-vinyl} piperidine-1-carboxylic acid tert-butyl ester (145 mg; 0.276 mmol) in dry DMF (5 ml) and the mixture was stirred at 23° under nitrogen for 25 min. 3,4-Dichlorobenzyl chloride (0.043 ml, 0.304 mmol; Aldrich) was added, and the mixture was stirred at 23° for 18 h. The solvent was evaporated in vacuo and the residue partitioned between water (25 ml) and ethyl acetate (3×20 ml). The organic layers were washed with 50:50 brine: water (30 ml) and brine, dried (MgSO4) and evaporated in vacuo to give a yellow oil (193 mg). Purification by flash chromatography on silica gel (Merck 9385), eluting with ether: cyclohexane 70:30 gave the title compound as a colourless oil (117 mg; 62%).

reactant | Sodium hydride | 0.304 mmol, 12.2 mg | [H-].[Na+]
reactant | 4-{2-[3-(1-tert-butoxycarbonylmethyl-piperidin-4-yl)-1H-indazol-6-yl]-(E)-vinyl} piperidine-1-carboxylic acid tert-butyl ester | 0.276 mmol, 145 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)\C=C\C1=CC=C2C(=NNC2=C1)C1CCN(CC1)CC(=O)OC(C)(C)C | C30H44N4O4
reactant | 3,4-Dichlorobenzyl chloride | 0.304 mmol, 0.043 ml | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-{2-[3-(1-tert-Butoxycarbonylmethyl-piperidin-4-yl)-1-(3,4-dichloro-benzyl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester | 193 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)\C=C\C1=CC=C2C(=NN(C2=C1)CC1=CC(=C(C=C1)Cl)Cl)C1CCN(CC1)CC(=O)OC(C)(C)C | C37H48Cl2N4O4
